US07271262B2
300C. 4-(4-Amino-5-{3-[3-(3,5-dichloro-phenyl)-ureido]-benzoyl}-pyrrolo[2,3-d]pyrimidin-7-yl)-piperidine-1-carboxylic acid tert-butyl ester
3,5-Dichlorophenyl isocyanate (0.26 g, 1.37 mmol) was added to a solution of 4-[4-amino-5-(3-amino-benzoyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.5 g, 1.15 mmol) in pyridine (13 mL). The reaction mixture was stirred at 75 C for 4.5 h and room temperature for 12 h in a sealed tube, quenched with H2O (13 mL), and extracted with EtOAc (4×15 mL). The combined organic extracts were washed with CuSO4 (3×15 mL), H2O (20 mL), and brine (30 mL) and dried (MgSO4), filtered, and concentrated in vacuo. The crude reaction mixture was triturated in CH2Cl2 and filtered to obtain the titled compound as a white solid (0.45 g, 63%). MS: 625.5 (MH+); HPLC Rf: 7.48 min. (HPLC method 4); HPLC purity: 100%.

reactant | 3,5-Dichlorophenyl isocyanate | 1.37 mmol, 0.26 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | 4-[4-amino-5-(3-amino-benzoyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.15 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C(C2=CC(=CC=C2)N)=O | C23H28N6O3
solvent | pyridine | 13 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-Amino-5-{3-[3-(3,5-dichloro-phenyl)-ureido]-benzoyl}-pyrrolo[2,3-d]pyrimidin-7-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.45 g, 63% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C(C2=CC(=CC=C2)NC(=O)NC2=CC(=CC(=C2)Cl)Cl)=O | C30H31Cl2N7O4
